US05455258
Into a heterogeneous mixture of 4-amino-4-carboxypiperidine dihydrochloride (61.0 g, 0.34 mmol) in methanol (600 mL) is bubbled hydrogen chloride gas at room temperature. The reaction mixture is concentrated to dryness in vacuo, dissolved in 1,4-dioxane (200 mL), and concentrated in vacuo. The residue is redissolved in methanol (1600 mL) into which hydrogen chloride gas is bubbled for 45 minutes. The reaction mixture is refluxed for 18 hours. Most of the solvent is then evaporated, the product is collected by filtration, and washed with ethyl acetate to give 4-amino-4-carbomethoxypiperidine dihydrochloride.

reactant | 4-amino-4-carboxypiperidine dihydrochloride | 0.34 mmol, 61.0 g | Cl.Cl.NC1(CCNCC1)C(=O)O
reactant | methanol | 600 mL | CO | CH4O
product | 4-amino-4-carbomethoxypiperidine dihydrochloride | Cl.Cl.NC1(CCNCC1)C(=O)OC | InChI=1S/C7H14N2O2.2ClH/c1-11-6(10)7(8)2-4-9-5-3-7;;/h9H,2-5,8H2,1H3;2*1H
